US07381719B2
4-(2-Chloro-4-formyl-phenoxy)-benzamide
Mix 3-chloro-4-fluorobenzaldehyde (3.28 g, 20.7 mmol), 4-hydroxybenzamide (3.12 g, 22.7 mmol), potassium carbonate (4.29 g, 31.0 mmol) and dimethylacetamide (80 mL) in a flask. Heat the reaction to 100° C. for 3 hours. Let cool to ambient (room) temperature and pour into water (200 mL). After trituration, filter the solid formed and dry on a vacuum pump to obtain the product (5.35 g, 94%). 1H NMR (DMSO-d6) 9.94 (s, 1H), 8.13 (d, J=1.7 Hz, 1H), 7.98 (bs, 1H), 7.94 (d, J=8.5 Hz, 2H), 7.88 (dd, J=1.7 Hz, 8.5 Hz, 1H), 7.36 (bs, 1H), 7.21 (d, J=8.5 Hz, 1H), 7.14 (d, J=8.5 Hz, 2H).

reactant | 3-chloro-4-fluorobenzaldehyde | 20.7 mmol, 3.28 g | ClC=1C=C(C=O)C=CC1F | C7H4ClFO
reactant | 4-hydroxybenzamide | 22.7 mmol, 3.12 g | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
reactant | potassium carbonate | 31.0 mmol, 4.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 80 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 200 mL | O | H2O
product | 4-(2-Chloro-4-formyl-phenoxy)-benzamide | 5.35 g, 94% | ClC1=C(OC2=CC=C(C(=O)N)C=C2)C=CC(=C1)C=O | C14H10ClNO3
